US06930120B2
3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-fluoro-phenoxy)-2-methyl-propionic acid
The title compound was prepared from 2-(2-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester by the procedure of Example 26. 1H NMR (400 MHz, CDCl3) δ 7.21 (d, 2H, J=8.60 Hz), 7.12-6.96 (m, 4H), 6.79 (d, 2H, J=8.60 Hz), 4.15 (t, 2H, J=6.65 Hz), 3.26 (d, 1H, J=14.08 Hz), 3.19 (d, 1H, J=14.08 Hz), 2.98-2.80 (m, 2H), 2.32 (s, 3H), 2.02 (d, 2H, J=10.95 Hz), 1.81 (d, 2H, J=12.90 Hz), 1.70 (d, 1H, J=12.90 Hz), 1.85 (q, 2H, J=11.73 Hz), 1.40 (s, 3H), 1.39-1.23 (m, 3H). HRMS (ES+) m/z exact mass calcd for C28H33FNO5 482.2343, found 482.2349.

reactant | 2-(2-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)F)=O | C18H19FO4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-fluoro-phenoxy)-2-methyl-propionic acid | C1(CCCCC1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=C(C=CC=C1)F)C | C28H32FNO5
